US08008296B2
For example, (4-bromo-phenyl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone (where Y═Br) is treated with a suitable nucleophile, in this case, 4-mercaptopyridine in a suitable solvent such as DMF with potassium carbonate and the reaction heated to reflux for 1-3 days to yield [4-(pyridin-4-ylsulfanyl)-phenyl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone.

reactant | (4-bromo-phenyl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone | BrC1=CC=C(C=C1)C(=O)N1C(CCC1)CN1CCCC1 | C16H21BrN2O
reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | [4-(pyridin-4-ylsulfanyl)-phenyl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | N1=CC=C(C=C1)SC1=CC=C(C=C1)C(=O)N1C(CCC1)CN1CCCC1 | C21H25N3OS
